US07396844B1
Synthesis of 3-(2-bromoethoxy)benzonitrile
0.71 ml (10.0 mmol) of 2-bromoethanol, 1.43 g (12.0 mmol) of 3-cyanophenol and 3.15 g (12.0 mmol) of triphenylphosphine were dissolved in 100 ml of tetrahydrofuran. 5.22 g (12.0 mmol) of diethyl azodicarboxylate (40% solution in toluene) was added to the solution at room temperature, and they were stirred overnight. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained. This product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 2-bromoethanol | 10.0 mmol, 0.71 ml | BrCCO | C2H5BrO
reactant | 3-cyanophenol | 12.0 mmol, 1.43 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | triphenylphosphine | 12.0 mmol, 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 12.0 mmol, 5.22 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-bromoethoxy)benzonitrile | BrCCOC=1C=C(C#N)C=CC1 | C9H8BrNO
